US07157487B2
3-Fluorobenzenethiol (5.0 g, 39.0 mmol) was dissolved in methylene chloride (200 ml), and oxalyl chloride (3.57 ml, 41.0 mmol) and triethylamine (5.71 ml, 41.0 mmol) were added to the solution under stirring at 0° C. The reaction mixture was stirred for 24 hours at room temperature. The reaction mixture was distilled under reduced pressure to remove the solvent. The residue was suspended in methylene chloride (100 ml). After aluminum chloride (7.8 g, 58.5 mmol) was added to the reaction mixture under cooling at 0° C., the reaction mixture was stirred at room temperature for 4 hours. The reaction mixture was poured in ice water, followed by extraction with chloroform. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. To the residue were added concentrated aqueous ammonia (28%, 50 ml) and hydrogen peroxide (35% in water, 50 ml) and the mixture was stirred at room temperature for 24 hours. The crystals thus precipitated were collected by filtration and added with THF (100 ml) and 0.25M NaOH (60 ml, 15 mmol). The resulting mixture was heated under reflux for 24 hours. The reaction mixture was cooled to room temperature and poured in 1M HCl. The mixture was concentrated to dryness under reduced pressure. The residue was purified with chromatography on a silica gel column (middle pressure chromatography system Yamazen, C-18 column, linear gradient of H20 (0.1% HCOOH) and methanol (0.1% HCOOC) from 10% to 90%, 10 ml/min) to give 4-fluorobenzo(d)isothiazole-3-carboxylic acid (590 mg, 8%) as a colorless solid.

reactant | 3-Fluorobenzenethiol | 39.0 mmol, 5.0 g | FC=1C=C(C=CC1)S | C6H5FS
reactant | oxalyl chloride | 41.0 mmol, 3.57 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 41.0 mmol, 5.71 ml | C(C)N(CC)CC | C6H15N
reactant | aluminum chloride | 58.5 mmol, 7.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | NaOH | 15 mmol, 0.25M, 60 ml | [OH-].[Na+]
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | HCl | 1M | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-fluorobenzo(d)isothiazole-3-carboxylic acid | 590 mg, 8% | FC1=CC=CC2=C1C(=NS2)C(=O)O | C8H4FNO2S
